US04816178
2.78 g of 4-octyloxybenzoic acid was added to 10 ml of benzene, and under stirring at room temperature, 2.36 g of PCl5 was added little by little. The mixture was then heated under reflux for 4 hours. Thereafter, the solvent was distilled off to obtain 4-octyloxybenzoic acid chloride.

reactant | 4-octyloxybenzoic acid | 2.78 g | C(CCCCCCC)OC1=CC=C(C(=O)O)C=C1 | C15H22O3
reactant | PCl5 | 2.36 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | 4-octyloxybenzoic acid chloride | C(CCCCCCC)OC1=CC=C(C(=O)Cl)C=C1 | C15H21ClO2
